US06506901B2
Step B: 2,6-Difluoro-N-methyl-benzylamine
Prepared from 2,6-difluoro-N-methyl-benzamide (3.2 g, 18.7 mmol) and borane-methylsulfide (47 mL of a 2 M solution in toluene) according to the procedure used for example 84 (Step B) to give 1.5 g of the title compound which was used directly in the next prep.

reactant | 2,6-difluoro-N-methyl-benzamide | 18.7 mmol, 3.2 g | FC1=C(C(=O)NC)C(=CC=C1)F | C8H7F2NO
reactant | borane methylsulfide | B.CSC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-Difluoro-N-methyl-benzylamine | 1.5 g | FC1=C(CNC)C(=CC=C1)F | C8H9F2N
